US08426101B2
4-Mercaptophenol (5.08 g) (40.3 mmol) and 10.0 g (40.3 mmol) of 2-adamantylpropan-2-yl acrylate were dissolved in 100 ml of MeOH. To the solution was added 4.08 g (40.3 mmol) of triethylamine and the solution was stirred at room temperature for 4 hours. Ethyl acetate (200 ml) was added to the solution, the organic layer was washed four times with saturated sodium hydrogencarbonate and two times with water in order, and the organic layer was dried with sodium sulfate. The solvent was concentrated to obtain 11.2 g (29.9 mmol) of 2-adamantylpropan-2-yl 3-(4-hydroxyphenylthio)propanoate as a white solid. A mixture comprising 3.0 g (8.0 mmol) of the solid, 2.53 g (8.0 mmol) of 1,1,2,2,3,3-hexafluoropropane-1,3-disulfonyl difluoride, 1.22 g (8 mmol) of 7,11-diazabicyclo[5.4.0]undec-11-ene, and 100 ml of acetonitrile was stirred under nitrogen current at room temperature for 2 hours. Two hundred (200) ml of water and 200 ml of ethyl acetate were added to the solution, and the organic layer was washed with water, a saturated sodium chloride aqueous solution, and water in order, and the organic layer was dried with sodium sulfate. The solvent was concentrated, and the residue was dissolved in 50 ml of methanol and 50 ml of acetone. Sodium hydrogencarbonate (12.0 g) was added and the solution was stirred at 40° C. for 3 hours. Two hundred (200) ml of water and 200 ml of ethyl acetate was added thereto and the organic layer was washed with water, a saturated sodium chloride aqueous solution, and water in order, and the organic layer was dried with sodium sulfate. The solvent was concentrated to obtain brown oil. The oil was recrystallized with diisopropyl ether, and 3.08 g (4.46 mmol) of sodium 3-[4-{2-[(2-adamantylpropan-2-yloxy)carbonyl]ethylthio}-phenoxysulfonyl]-1,1,2,2,3,3-hexafluoropropane-1-sulfonate was obtained as a white solid. The white solid (1.80 g) (2.61 mmol) was dissolved in 100 ml of methanol, 0.895 g (2.61 mmol) of triphenylsulfonyl bromide was added thereto, and the solution was stirred at room temperature for 3 hours. Chloroform (200 ml) was added to the solution, the organic layer was washed with water, and the solvent was concentrated to obtain 2.63 g of a colorless transparent oily compound (A-79).

reactant | 4-Mercaptophenol | 40.3 mmol, 5.08 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | 2-adamantylpropan-2-yl acrylate | 40.3 mmol, 10.0 g | C(C=C)(=O)OC(C)CC1C2CC3CC(CC1C3)C2 | C16H24O2
reactant | triethylamine | 40.3 mmol, 4.08 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 100 ml | CO | CH4O
product | 2-adamantylpropan-2-yl 3-(4-hydroxyphenylthio)propanoate | 29.9 mmol, 11.2 g | OC1=CC=C(C=C1)SCCC(=O)OC(C)CC1C2CC3CC(CC1C3)C2 | C22H30O3S
